US05461143
A solution of ManNAc (5.0 g, 2.6 mmol), Ac2O (10 mL) and pyridine (20 mL) was stirred for 10 hours at room temperature, and the mixture was concentrated, followed by coevaporation with toluene. A solution of the residue, benzyl alcohol (20 mL), BF3.OEt2 (1.6 g, 11.3 mmol) in CH3NO2 (150 mL) was gently refluxed for 2.5 hours. After cooling, the mixture was concentrated. The residue was chromatographed on silica gel, with toluene-EtOAc (1:2). The isolated benzyl 2-acetamido-4,5,6-tri-O-acetyl-2-deoxy-a-D-mannopyranoside and 0.15 g of NaOMe was dissolved in MeOH (100 mL) and the solution was stirred for 30 minutes at room temperature, and neutralized by addition of Dowex 50W-X8 (H+). After the resin was filtered off, the filtrate was concentrated, followed by coevaporation with pyridine. A solution of dimethylphosphinic chloride (1 g, 8.8 mmol) in DMF was added to a cold solution of benzyl 2-acetamido- 2-deoxy-a-D-mannopyranoside (0.50 g, 1.6 mmol), 2,6-lutidine (0.34 g, 3.2 mmol) in anhydrous DMF (30 mL) in a dry ice-acetone bath, and the reaction was allowed to slowly warm to room temperature. The reaction was monitered by TLC with (1M NH4OAc/2-proponal/EtOAc, 1/2.4/3.4). After 10 hours, the reaction mixture was directly applied to silica gel chromatography, eluted with CHCl3 /EtOAc/MeOH (5/2/1) to give benzyl 2-acetamido-2-deoxy-6-(dimethyl-phosphinyl)-a-D-mannopyranoside (56 percent yield).

reactant | ManNAc | 2.6 mmol, 5.0 g | OC1[C@H]([C@@H](O)[C@H](O)[C@H](O1)CO)NC(=O)C | C8H15NO6
reactant | Ac2O | 10 mL | CC(=O)OC(=O)C | C4H6O3
reactant | benzyl alcohol | 20 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | BF3.OEt2 | 11.3 mmol, 1.6 g | B(F)(F)F.CCOCC
reactant | dimethylphosphinic chloride | 8.8 mmol, 1 g | CP(=O)(C)Cl | C2H6ClOP
reactant | benzyl 2-acetamido- 2-deoxy-a-D-mannopyranoside | 1.6 mmol, 0.50 g | C(C)(=O)N[C@@H]1[C@@H](OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1O)O)CO | C15H21NO6
reactant | 2,6-lutidine | 3.2 mmol, 0.34 g | N1=C(C=CC=C1C)C | C7H9N
solvent | CH3NO2 | 150 mL | C[N+](=O)[O-] | CH3NO2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | benzyl 2-acetamido-2-deoxy-6-(dimethyl-phosphinyl)-a-D-mannopyranoside | 56 percent yield | C(C)(=O)N[C@@H]1[C@@H](OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1O)O)C(O)P(=O)(C)C | C17H26NO7P
